US09029409B2
To a stirred solution of methyl 2-methyl-6-(5-phenyl-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxylate (0.15 g, 0.505 mmol, Preparation #19) in methanol (1.5 mL) and water (0.5 mL) mixture was added lithium hydroxide (0.036 g, 1.514 mmol, Sd Fine Chem). The reaction mixture was stirred for about 10 min at RT and the organic solvent was removed under reduced pressure. The aqueous layer was acidified with 10% citric acid solution. The solid was collected by filtration, washed with water and dried under vacuum to afford 2-methyl-6-(5-phenyl-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxylic acid 0.1 g, (70.0%) as a yellow solid. 1H NMR (400 MHz, DMSO) δ 14.0 (bs, 1H), 8.16 (s, 1H), 7.42 (m, 5H), 5.92 (m, 1H), 3:98 (m, 1H), 3.45 (m, 1H), 2.72 (s, 3H), MS m/z: 284.2 (m+H)+.

reactant | methyl 2-methyl-6-(5-phenyl-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxylate | 0.505 mmol, 0.15 g | CC1=NC(=CC(=N1)C(=O)OC)C1=NOC(C1)C1=CC=CC=C1 | C16H15N3O3
reactant | lithium hydroxide | 1.514 mmol, 0.036 g | [OH-].[Li+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 2-methyl-6-(5-phenyl-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxylic acid | 0.1 g, 70.0% | CC1=NC(=CC(=N1)C(=O)O)C1=NOC(C1)C1=CC=CC=C1 | C15H13N3O3
